US04259490
1-Benzoyl-4-(6-bromobenz[cd]indol-2-yl)piperazine
A mixture consisting of 7.1 g. of 1-(6-bromobenz-[cd]indol-2-yl)piperazine, 75 ml. of water, and 75 ml. of chloroform is stirred vigorously as 10 ml. of 5 N soidum hydroxide is added, followed by 5 g. of benzoyl chloride, in six portions over a period of 10 minutes. The reaction mixture is stirred an additional 30 minutes after the completion of the benzoyl chloride addition. The chloroform layer is separated and dried over sodium sulrate. After separation from impurities by chromatography on an alumina column, the title compound is recrystallized from benzene-chloroform to yield orange flakes, melting at 237.5°-239° C.

reactant | 1-(6-bromobenz-[cd]indol-2-yl)piperazine | BrC=1C=2C3=C(C(=NC3=CC1)N1CCNCC1)C=CC2 | C15H14BrN3
reactant | water | O | H2O
reactant | hydroxide | 5 N | [OH-]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzoyl-4-(6-bromobenz[cd]indol-2-yl)piperazine | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=NC2=CC=C(C=3C2=C1C=CC3)Br | C22H18BrN3O
